US04447434
5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
A mixture of 0.97 g (6.25 mol) of 1-methyl-1,2,5,6-tetrahydro-4-pyridinoacetic acid and 0.20 g (6.25 mmol) of 75% sodium hydride (in paraffin oil) in 16 ml of dimethylformamide was heated to 50°-80° C. until the development of hydrogen had ceased (2 to 3 hours). 1.312 g (6.24 mmol) of 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one was added to the sodium salt of the acid thus produced and at -10° C. 0.99 g of 98% phosphorus oxytrichloride was added dropwise within 10 minutes. The resulting mixture was stirred at -10° C. for 4 hours, at 0° C. for 4 hours and at ambient temperature for 20 hours. The mixture was stirred into 200 g of crushed ice, adjusted to pH 3.5 with sodium hydroxide solution, extracted once with methylene chloride and then the aqueous phase was adjusted to pH 9 and exhaustively extracted with methylene chloride. The organic phase was washed with water, dried over sodium sulphate and concentrated by evaporation in vacuo. After purification by column chromatography on silica gel (using ethyl acetate/methanol in a volume ratio of 9:1 as eluent) 0.63 g (29% of theory) of a colorless amorphous product was obtained, which was identical, according to the thin layer chromatogram, elementary analysis and IR spectrum, to a compound obtained using the method of Example 1.

reactant | sodium hydride | 6.25 mmol, 0.20 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 6.24 mmol, 1.312 g | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | sodium | [Na] | Na
reactant | phosphorus oxytrichloride | 0.99 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 5,10-dihydro-5-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CC=C(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H21N3O2
